US07166607B2
i) 4-(Methylsulfonyl)-benzenethiol
1-Fluoro-4-(methylsulfonyl)-benzene (1.74 g) and sodium hydrosulphide hydrate (0.67 g) were dissolved in DMF (10 ml) and stirred at room temperature for 24 hours. The reaction was quenched with water, acidified with 2M hydrochloric acid (20 ml) and extracted with ethyl acetate (2×50 ml). The combined extracts were then washed with water (2×25 ml) and brine (20 ml). The organic solution was dried (MgSO4), filtered and evaporated in vacuo to yield the sub-title compound as a white solid (1.8 g).

reactant | 1-Fluoro-4-(methylsulfonyl)-benzene | 1.74 g | FC1=CC=C(C=C1)S(=O)(=O)C | C7H7FO2S
reactant | sodium hydrosulphide hydrate | 0.67 g | O.[SH-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(Methylsulfonyl)-benzenethiol | 1.8 g | CS(=O)(=O)C1=CC=C(C=C1)S | C7H8O2S2
